US05872137
A mixture of 3.9 g of 4-(trifluoromethyl)aniline and 0.50 g of 1-(3-bromopropyloxy)-2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)benzene was stirred at 90° C. to 100° C. for 3 hours. After cooling to room temperature, the reaction mixture was subjected to silica gel chromatography, which afforded 0.37 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(3-(4-(trifluoromethyl)phenylamino)propyloxy)benzene (62% yield), nD23.5 1.5617.

reactant | 4-(trifluoromethyl)aniline | 3.9 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | 1-(3-bromopropyloxy)-2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)benzene | 0.50 g | BrCCCOC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl | C12H11BrCl4O2
product | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(3-(4-(trifluoromethyl)phenylamino)propyloxy)benzene | 0.37 g, 62% yield | ClC=1C=C(C=C(C1OCCCNC1=CC=C(C=C1)C(F)(F)F)Cl)OCC=C(Cl)Cl | C19H16Cl4F3NO2
